US04455307
8-Bromo-1-(2,2-dimethylpropyl)-6-phenyl-4H-[ 1,2,4]triazolo[4,3-a][1,4]benzodiazepine.
Following the procedure of Example 5, 2.0 g of 7-bromo-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine is reacted with 1.01 ml of tert-butyl acetylchloride to yield 1.17 g of title product with melting point 229.5°-232° C. and 0.30 g of title product with melting point 205°-219° C.

reactant | 7-bromo-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine | 2.0 g | BrC=1C=CC2=C(C(=NCC(=N2)NN)C2=CC=CC=C2)C1 | C15H13BrN4
reactant | tert-butyl acetylchloride | 1.01 ml | C(C)(C)(C)CC(=O)Cl | C6H11ClO
product | 8-Bromo-1-(2,2-dimethylpropyl)-6-phenyl-4H-[ 1,2,4]triazolo[4,3-a][1,4]benzodiazepine | 0.30 g | BrC=1C=CC2=C(C(=NCC=3N2C(=NN3)CC(C)(C)C)C3=CC=CC=C3)C1 | C21H21BrN4
